US05519048
a) 3-Methoxy-2-(3-nitrophenyl)-propenoic acid, methyl ester
Combine freshly prepared sodium methoxide (9.3 g, 172 mmol) and tetrahydrofuran (125 mL). Cool to 0° C. Add methyl formate (10.6 mL, 172 mmol). Add dropwise a solution of methyl (3-nitrophenyl)acetate (15.3 g, 78.3 mmol) in tetrahydrofuran (125 mL). After the addition is complete, warm the reaction mixture to ambient temperature. After 16 hours, evaporate in vacuo to give a residue. Dissolve the residue in dimethylformamide (125 mL). Add dropwise, methyl iodide (19.5 mL, 313 mmol). After 4 hours, dilute the reaction mixture with ethyl acetate and extract with water, saturated aqueous solution of sodium thiosulfate, and saturated aqueous solution of sodium chloride. Dry over MgSO4, filter through a plug of silica gel eluting with dichloromethane to give the title compound: mp; 101-103° C.

reactant | sodium methoxide | 172 mmol, 9.3 g | C[O-].[Na+]
reactant | methyl formate | 172 mmol, 10.6 mL | C(=O)OC | C2H4O2
reactant | methyl (3-nitrophenyl)acetate | 78.3 mmol, 15.3 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)OC | C9H9NO4
reactant | methyl iodide | 313 mmol, 19.5 mL | CI | CH3I
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 3-Methoxy-2-(3-nitrophenyl)-propenoic acid, methyl ester | COC=C(C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C11H11NO5
